US05843942
A mixture of methyl-2-[N-(2-benzyloxy-5-nitrobenzyl)-N-t-butoxycarbonylamino]pyridine-5-carboxylate (5.2 g) and formic acid (20 ml) was heated on a steam bath to give a clear solution. The mixture was evaporated to dryness and the residue obtained was dissolved in diethylether (100 ml) and washed with saturated sodium bicarbonate. The organic layer was dried and evaporated to give methyl-2-[N-(2-benzyloxy-5-nitrobenzyl)-amino]pyridine-5-carboxylate, yield 3.3 g. This same procedure was used to prepare ethyl-2-[N-(2-benzyloxy-5-bromobenzyl)-amino]thiophene-5-carboxylate.

reactant | methyl-2-[N-(2-benzyloxy-5-nitrobenzyl)-N-t-butoxycarbonylamino]pyridine-5-carboxylate | 5.2 g | COC(=O)C=1C=CC(=NC1)N(C(=O)OC(C)(C)C)CC1=C(C=CC(=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C26H27N3O7
reactant | formic acid | 20 ml | C(=O)O | CH2O2
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | methyl-2-[N-(2-benzyloxy-5-nitrobenzyl)-amino]pyridine-5-carboxylate | COC(=O)C=1C=CC(=NC1)NCC1=C(C=CC(=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C21H19N3O5
